US07462630B2
Synthesis of methyl 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-[(2,2-dimethylpropanoyl)amino]-4-oxobutanoate:
600 mg (1.19 mmol) of methyl 2-[(t-butoxycarbonyl)amino]-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoate was dissolved in 5 ml of ethyl acetate. 0.5 ml of 4 N hydrochloric acid/ethyl acetate solution was added to the obtained solution, and they were stirred at 0° C. for 3 hours. After stirring at room temperature overnight, the solvent was evaporated under reduced pressure. The residue was dissolved in 10 ml of dichloromethane. 602 mg (5.95 mmol) of triethylamine and 158 mg (1.31 mmol) of pivaloyl chloride were added to the obtained solution, and they were stirred for 10 minutes. Saturated aqueous sodium hydrogencarbonate solution and water were added to the reaction mixture. After extracting with ethyl acetate 3 times followed by the drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane:ethyl acetate=89:11 to 65:35) to obtain the title compound.

reactant | methyl 2-[(t-butoxycarbonyl)amino]-4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-4-oxobutanoate | 1.19 mmol, 600 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C30H34N2O5
reactant | hydrochloric acid ethyl acetate | 4 N, 0.5 ml | Cl.C(C)(=O)OCC
reactant | triethylamine | 5.95 mmol, 602 mg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 1.31 mmol, 158 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-[(2,2-dimethylpropanoyl)amino]-4-oxobutanoate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CC(C(=O)OC)NC(C(C)(C)C)=O)=O | C30H34N2O4
